* ascii art credit 
* https://electronics.stackexchange.com/questions/229545/is-there-a-potentiometer-model-for-ltspice
*      _____
*  1--|_____|--3
*        |
*        2
*footprint source - https://github.com/KiCad/Potentiometers.pretty/blob/master/Potentiometer_Triwood_RM-065.kicad_mod
#3d mdl source - https://git.nexlab.net/nexlab/kicad_libs/blob/master/kicad-library/modules/packages3d/Potentiometers.3dshapes/Potentiometer_Triwood_RM-065.wrl
.SUBCKT potentiometer 1 2 3 PARAMS: R=2M w=0.5
R0 1 2 {R*(1-w)}
R1 2 3 {R*(w)}
.ENDS
